US06906063B2
C. Synthesis of [4-(1,3-dioxobenzo[c]azolidin-2-yl)phenyl]-N-[(5-chloro(2-thienyl))sulfonyl]carboxamide
A 22 mg portion (0.070) of (4-aminophenyl)-N-[(5-chloro(2-thienyl))sulfonyl]carboxamide was combined with 15 mg (0.10 mmol) of phthalic anhydride in 140 μL of DMF. After 18 h of heating at 110° C., the mixture was cooled and purified by RP-HPLC, to give 20 mg (55%) of the desired compound. ES-MS (M+H)+=447 (Cl).

reactant | (4-aminophenyl)-N-[(5-chloro(2-thienyl))sulfonyl]carboxamide | NC1=CC=C(C=C1)C(=O)NS(=O)(=O)C=1SC(=CC1)Cl | C11H9ClN2O3S2
reactant | phthalic anhydride | 0.10 mmol, 15 mg | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | DMF | 140 μL | CN(C)C=O | C3H7NO
product | [4-(1,3-dioxobenzo[c]azolidin-2-yl)phenyl]-N-[(5-chloro(2-thienyl))sulfonyl]carboxamide | 20 mg, 55% | O=C1N(C(C2=C1C=CC=C2)=O)C2=CC=C(C=C2)C(=O)NS(=O)(=O)C=2SC(=CC2)Cl | C19H11ClN2O5S2
